US04101582
Preparation of N-Isopropyl-4,6-dinitro-o-Cymen-5-amine
A mixture of 5-chloro-4,6-dinitro-o-cymene (4.0 g, 0.0155 mole) and isopropylamine (3.2g, 0.054 mole) in toluene is heated in a bomb at 100° C. for 4 hours. The cooled mixture is washed with aqueous bicarbonate solution, dried over magnesium sulfate, and concentrated to leave the crude product which is purified by dry column chromatography to yield 3.2 g of product with mp 54°-55° C. By using one of the aforementioned procedures for the dinitration of the appropirate N-alkyl-4-alkyl-m-toluidines or by reacting the appropriate amine with the desired 3-chloro-2,4-dinitro-6-alkyltoluene the following compounds are prepared.

reactant | 5-chloro-4,6-dinitro-o-cymene | 0.0155 mole, 4.0 g | ClC1=C(C=C(C(=C1[N+](=O)[O-])C(C)C)C)[N+](=O)[O-] | C10H11ClN2O4
reactant | isopropylamine | 0.054 mole, 3.2g | C(C)(C)N | C3H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Isopropyl-4,6-dinitro-o-Cymen-5-amine | 3.2 g | C(C)(C)NC1=C(C=C(C(=C1[N+](=O)[O-])C(C)C)C)[N+](=O)[O-] | C13H19N3O4
